US05925656
2-(N-Benzyl-N-methylamino)ethanol
The title compound was prepared from benzyl bromide (4 g) and 2-(methylamino)ethanol (18.6 ml) by an analogous procedure to that described in preparation 1.

reactant | benzyl bromide | 4 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-(methylamino)ethanol | 18.6 ml | CNCCO | C3H9NO
product | 2-(N-Benzyl-N-methylamino)ethanol | C(C1=CC=CC=C1)N(C)CCO | C10H15NO
